US08304419B2
Step A: 1,1-dimethylethyl {2-[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)amino]-2-oxoethyl}carbamate
BOP chloride (0.085 g, 0.334 mmol) was added to a solution of 6-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide (0.065 g, 0.111 mmol), N-{[(1,1-dimethylethyl)oxy]carbonyl}glycine (0.0195 g, 0.111 mmol) and diisopropylethylamine (0.097 mL, 0.557 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 1 hr, then extracted with ethyl acetate and water. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography (hexane:ethyl acetate) to give the title compound (0.031 g, 80% pure). ES MS: m/z 624 (M−1).

reactant | BOP chloride | 0.334 mmol, 0.085 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.[Cl-]
reactant | 6-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide | 0.111 mmol, 0.065 g | NC1=CC=C2C=C(NC2=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C23H15Cl2FN4O2
reactant | N-{[(1,1-dimethylethyl)oxy]carbonyl}glycine | 0.111 mmol, 0.0195 g | CC(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | diisopropylethylamine | 0.557 mmol, 0.097 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl {2-[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-5-yl)amino]-2-oxoethyl}carbamate | 0.031 g, 80% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)NC(CNC(OC(C)(C)C)=O)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C30H26Cl2FN5O5
